US07834051B2
To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-3-oxopentanoate (3.0 g) in acetone (50 mL) were added potassium carbonate (2.83 g) and iodoethane (2.45 mL), and the mixture was refluxed overnight. After allowing to room temperature, potassium carbonate (2.83 g) and iodoethane(2.45 mL) were added, and the mixture was refluxed for 1 day. After allowing to room temperature, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=20:1→3:2) to give ethyl 4-{[(benzyloxy) carbonyl]amino}-2,2-diethyl-3-oxopentanoate as a colorless oil (yield: 1.91 g, 53%). To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-diethyl-3-oxopentanoate (1.91 g) in methanol (15 mL) was added 10% palladium carbon (containing 50% water, 1.0 g), and the mixture was stirred under a hydrogen atmosphere overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound as a colorless solid (yield: 920 mg, 99%).

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-3-oxopentanoate | 3.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(CC(=O)OCC)=O)C | C15H19NO5
reactant | potassium carbonate | 2.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.45 mL | ICC | C2H5I
reactant | potassium carbonate | 2.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.45 mL | ICC | C2H5I
reactant | water | O | H2O
reactant | acetone | 50 mL | CC(=O)C | C3H6O
product | ethyl 4-{[(benzyloxy) carbonyl]amino}-2,2-diethyl-3-oxopentanoate | yield: 1.91 g, 53% | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(CC)CC)=O)C | C19H27NO5
